US07189873B2
b) Hydroxy-(4-methoxy-phenyl)-acetic acid [1-(4-hydroxy-3-methoxy-phenyl)-meth-(E)-ylidene]-hydrazide
Vanillin (23 g, 0.15 mol) is added to a solution of hydroxy-(4-methoxy-phenyl)-acetic acid hydrazide (30 g, 0.15 mol) in 300 ml of ethanol at room temperature. After heating this mixture to reflux for 4 hours, the reaction is poured on water and extracted with ethyl acetate. The combined organic layer is washed with brine, dried over magnesium sulfate and evaporated. The residue, which is hydroxy-(4-methoxy-phenyl)-acetic acid [1-(4-hydroxy-3-methoxy-phenyl)-meth-(E)-ylidene]-hydrazide, is sufficiently pure to be directly used in the next step.

reactant | Vanillin | 0.15 mol, 23 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | hydroxy-(4-methoxy-phenyl)-acetic acid hydrazide | 0.15 mol, 30 g | OC(C(=O)NN)C1=CC=C(C=C1)OC | C9H12N2O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | Hydroxy-(4-methoxy-phenyl)-acetic acid [1-(4-hydroxy-3-methoxy-phenyl)-meth-(E)-ylidene]-hydrazide | OC1=C(C=C(C=C1)\C=N\NC(C(C1=CC=C(C=C1)OC)O)=O)OC | C17H18N2O5
